US09381191B2
0.09 g (0.594 mmol) of methyl 3-hydroxybenzoate were dissolved in 1 ml of tetrahydrofurane with magnetic stirring and then 0.312 g (1.188 mmol) of triphenylphosphine and 0.231 ml (1.188 mmol) of DIAD were added. The mixture was stirred at r.t. for 15 min and then a solution of 0.076 g (0.297 mmol) of (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methanol in 4 ml of tetrahydrofurane was added and the mixture was stirred at r.t. for 16 h. A mixture of 0.09 g (0.594 mmol) of methyl 3-hydroxybenzoate, 0.312 g (1.188 mmol) of triphenylphosphine and 0.231 ml (1.188 mmol) of DIAD dissolved in 1 ml of tetrahydrofurane was added and the reaction medium was stirred at r.t. for a further 2 h. The reaction medium was treated with 10 ml. The aqueous phase was extracted with 3×10 ml of ethyl acetate and then the combined organic phases were washed with 10 ml of a saturated NaCl solution and then dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: heptane/ethyl acetate, from 70% to 40% heptane, v/v). 0.048 g (yield=42%) of methyl 3-((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)benzoate were obtained as a pale yellow solid. LC-MS: m/z=383 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.64 (d, J=6.8 Hz, 1H), 7.68 (dd, J=17.0, 7.2 Hz, 4H), 7.55 (d, J=8.7 Hz, 1H), 7.52-7.34 (m, 6H), 7.15 (t, J=7.3 Hz, 1H), 5.42 (s, 2H), 3.80 (s, 3H).

reactant | methyl 3-hydroxybenzoate | 0.594 mmol, 0.09 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | triphenylphosphine | 1.188 mmol, 0.312 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.188 mmol, 0.231 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methanol | 0.297 mmol, 0.076 g | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)CO | C16H12N2O
reactant | methyl 3-hydroxybenzoate | 0.594 mmol, 0.09 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | triphenylphosphine | 1.188 mmol, 0.312 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.188 mmol, 0.231 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
product | methyl 3-((3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)benzoate | 0.048 g, yield=42% | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)COC=2C=C(C(=O)OC)C=CC2 | C24H18N2O3
